US05693633
2-Bromoacetophenone(0.1 moles, 20.0 g) was reacted with sodium methoxide (0.13 moles) in 150 ml methanol and treated with Gold's Reagent (0.13 moles, 21.2 g) according to the procedure in J. Org, Chem, 45:4525 (1988). The intermediate was purified by chromatography over silica gel eluted with 75-100% ethyl acetate in hexane. The resulting amine was dissolved in ethanol with 1,1-bis(methylthio)-2-nitroethylene (0.074 moles, 12.3 g) and sodium acetate (22.5 g) and refluxed for two hours. An additional 45 g of sodium acetate was added. The solution continued to reflux for 16 hours. The reaction was concentrated. Ethyl acetate and water were added. The organic phase was dried and evaporated. The product was chromatographed over silica gel eluted with a gradient of 25-100% ethyl acetate in hexane to yield 2.6 g of 2-amino-6-(2-bromophenyl)-3-nitropyridine. (MS)

reactant | 2-Bromoacetophenone | 0.1 moles, 20.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | sodium methoxide | 0.13 moles | C[O-].[Na+]
reactant | Gold's Reagent | 0.13 moles, 21.2 g | CN(C)C=NC=[N+](C)C.[Cl-]
reactant | 1,1-bis(methylthio)-2-nitroethylene | 0.074 moles, 12.3 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | sodium acetate | 22.5 g | C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 45 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-6-(2-bromophenyl)-3-nitropyridine | 2.6 g | NC1=NC(=CC=C1[N+](=O)[O-])C1=C(C=CC=C1)Br | C11H8BrN3O2
